US07947382B2
b) Synthesis of 2,7-dibromo-9-keto-10,10-dimethyl-9,10-dihydrophenanthrene
132.8 g (294 mmol) of 2,7-dibromo-9,10-dihydroxy-9,10-dimethyl-9,10-dihydrophenanthrene were suspended in 420 ml of acetic acid and 210 ml of trifluoroacetic acid under argon, and the mixture was stirred for 3 h under reflux. After the mixture had been stirred overnight at room temperature, it was filtered with suction, the residue was washed with water and methanol and dissolved in toluene, the solution was filtered through silica gel, and the solvent was removed, giving 89.9 g (80.4% of theory) of the product, which was used without further purification.

reactant | 2,7-dibromo-9,10-dihydroxy-9,10-dimethyl-9,10-dihydrophenanthrene | 294 mmol, 132.8 g | BrC1=CC=2C(C(C3=CC(=CC=C3C2C=C1)Br)(C)O)(C)O | C16H14Br2O2
reactant | trifluoroacetic acid | 210 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | acetic acid | 420 ml | C(C)(=O)O | C2H4O2
product | 2,7-dibromo-9-keto-10,10-dimethyl-9,10-dihydrophenanthrene | BrC1=CC=2C(C(C3=CC(=CC=C3C2C=C1)Br)=O)(C)C | C16H12Br2O
